US07169773B2
tert-butyl (2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-1H-1,5-benzodiazepin-1-yl)acetate
To 100 mL of THF at 0° C. was added dropwise over 20 min simultaneously a solution of the tert-butyl N-(2-anilinophenyl)glycinate (9.5 g, 31.8 mM) in 100 mL of THF and solution of malonyl dichloride (5.38 mL, 38.21 mM) in 100 mL of THF. The resulting solution was stirred at RT for 20 h and the solvent removed in vacuo. The resultant material was purified by silica gel flash column chromatography using hexanes/EtOAc 6/14 and the combined filtrates evaporated in vacuo to give 10.2 g of product. 1H NMR (DMSO-d6) 1.40 (s, 9H), 3.19 (d, J=12 Hz, 1H), 3.69 (d, J=12 Hz, 1H), 4.55 (d, J=17 Hz, 1H), 4.71 (d, J=17 Hz, 1H), 6.89 (d, J=8 Hz, 1H), 7.20 (t, J=8 Hz, 1H), 7.33 (m, 4H), 7.46 (m, 3H).

reactant | tert-butyl N-(2-anilinophenyl)glycinate | 31.8 mM, 9.5 g | N(C1=CC=CC=C1)C1=C(C=CC=C1)NCC(=O)OC(C)(C)C | C18H22N2O2
reactant | malonyl dichloride | 38.21 mM, 5.38 mL | C(CC(=O)Cl)(=O)Cl | C3H2Cl2O2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | tert-butyl (2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-1H-1,5-benzodiazepin-1-yl)acetate | 10.2 g | O=C1CC(N(C2=C(N1CC(=O)OC(C)(C)C)C=CC=C2)C2=CC=CC=C2)=O | C21H22N2O4
